US07642073B2
General procedure for detection of an enzyme that reduces the target compound ethyl-4-chloro-3-ketobutyrate
A gene encoding the alcohol dehydrogenase YPR1 (described by Nakamura, K., et al., Bioscience, Biotechnology and Biochemistry, (1997) 61, 375-377), is subjected to mutagenesis by error-prone PCR according to the method of May, O., et al., (Nature Biotechnology, (2000) 18, 317-320). The error-prone PCR is performed in a 100 CL reaction mixture containing 0.25 ng of plasmid DNA as a template dissolved in PCR buffer (10 mM TRIS, 1.5 mM MgCl2, 50 mM KCl, pH 8.3), and also containing 0.2 mM of each dNTP, 50 pmol of each primer and 2.5 units of Taq polymerase (Roche Diagnostics, Indianapolis, Ind.). Conditions for carrying out the PCR are as follows: 2 minutes at 94 CC; 30 cycles of 30 sec 94 CC, 30 sec 55 CC; 2 minutes at 72 CC. The PCR product is double digested with Nco I and Bgl II and subcloned into pBAD/HisA vector (Invitrogen, Carlsbad, Calif.) which has been digested with the same restriction enzymes. The resulting YPR1 mutant library is transformed into the E. coli host strain LMG194 (Invitrogen, Carlsbad, Calif.) and plated on LB agar supplied with 100 μg/mL ampicillin. Individual transformants are inoculated into 96-well microtiter plates (hereafter referred to as master plates) containing 0.2 mL LB Broth with 100 μg/mL ampicillin, and growth is allowed to take place for 8 to 16 hours at 37 CC with shaking at 200 rpm. Each well in each master plate is then re-inoculated by a replica plating technique into a new second stage 96-well plate pre-loaded with the same growth media plus 2 g/L of arabinose, and growth is allowed to continue for 5-10 hours at 37 CC with shaking at 200 rpm. The second stage plates are then centrifuged at 14,000 rpm for 20 minutes, and the supernatant is decanted. The cell pellet in each well is washed with 200 CL of water. The washed cell pellet is suspended in 30 CL of B-Per Bacterial Protein Extraction Reagent (Pierce Chemical Co., Rockford, Ill.), hereinafter “B-Per.” After mixing, the suspension of cells in B-Per reagent is allowed to stand for 10 minutes at room temperature, and a reaction solution having the following composition is then added to each well in the plate:

reactant | MgCl2 | 1.5 mM | [Mg+2].[Cl-].[Cl-]
reactant | KCl | 50 mM | [Cl-].[K+]
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | arabinose | O=C[C@@H](O)[C@H](O)[C@H](O)CO | C5H10O5
product | ethyl-4-chloro-3-ketobutyrate | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
